US06617351B1
Preparation of Intermediate N-2-(4-Bromophenyl)ethyl Methanesulfonamide
To a 0° C. solution of of 4-bromophenethylamine (10.0 g, 50.0 mmol) and triethylamine (7.7 mL, 55.0 mmol) in 150 mL of dichloromethane was added dropwise methanesulfonyl chloride (4.3 mL 55.0 mmol) in 20 mL of dichloromethane. After two hours, the reaction mixture was washed once with 100 mL of 10% aqueous sodium bisulfate. The organic portion was separated and the aqueous portion was extracted three times with 50 mL each of dichloromethane. The combined organics were dried (Na2SO4), filtered and concentrated in vacuo to afford 14.0 g (100%) of the intermediate title compound.

reactant | 4-bromophenethylamine | 50.0 mmol, 10.0 g | BrC1=CC=C(CCN)C=C1 | C8H10BrN
reactant | triethylamine | 55.0 mmol, 7.7 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 55.0 mmol, 4.3 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | N-2-(4-Bromophenyl)ethyl Methanesulfonamide | 14.0 g, 100% | BrC1=CC=C(C=C1)CCNS(=O)(=O)C | C9H12BrNO2S
